* OPA2134
*$
*****************************************************************************
* (C) Copyright 2011 Texas Instruments Incorporated. All rights reserved.                                            
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer.
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
** Released by: Analog eLab Design Center, Texas Instruments Inc.
* Part: OPA2134
* Date: 31MAY2011
* Model Type: ALL IN ONE
* Simulator: PSPICE
* Simulator Version: 16.0.0.p001
* EVM Order Number: N/A 
* EVM Users Guide: N/A
* Datasheet: SBOS058
*
* Model Version: 1.0
*
*****************************************************************************
*
* Updates:
*
* Version 1.0 : 
* Release to Web
*
*****************************************************************************
* THIS MODEL IS APPLICABLE TO OPA134 AND OPA4134 ALSO.
*
* CONNECTIONS:		 NON-INVERTING INPUT
*	                 | INVERTING INPUT
*       	         | | POSITIVE POWER SUPPLY
*               	 | | | NEGATIVE POWER SUPPLY
*	        	 | | | | OUTPUT
*       	         | | | | |
* PIN CONFIG FOR OPA2134 :1 2 3 4 5
*****************************************************************************
.SUBCKT OPA2134   1 2 3 4 5
C1   11 12 3.240E-12
C2    6  7 8.000E-12
CSS  10 99 1.000E-30
DC    5 53 DX
DE   54  5 DX
DLP  90 91 DX
DLN  92 90 DX
DP    4  3 DX
EGND 99  0 POLY(2) (3,0) (4,0) 0 .5 .5
FB    7 99 POLY(5) VB VC VE VLP VLN 0 248.0E6 -250E6 250E6 250E6 -250E6
GA    6  0 11 12 402.0E-6
GCM   0  6 10 99 4.020E-9
ISS   3 10 DC 160.0E-6
HLIM 90  0 VLIM 1E3
J1   11  2 10 JX
J2   12  1 10 JX
R2    6  9 100.0E3
RD1   4 11 2.490E3
RD2   4 12 2.490E3
RO1   8  5 20
RO2   7 99 20
RP    3  4 7.500E3
RSS  10 99 1.250E6
VB    9  0 DC 0
VC    3 53 DC 1.200
VE   54  4 DC .9
VLIM  7  8 DC 0
VLP  91  0 DC 40
VLN   0 92 DC 40
.MODEL DX D(IS=800.0E-18)
.MODEL JX PJF(IS=2.500E-15 BETA=1.010E-3 VTO=-1)
.ENDS OPA2134

*$
